US06492416B1
5-{4-(Aminosulfonyl)phenyl}-2-ethyl-4-(2-furanyl)-2-methyl-3(2H)-furanone
5-{4-(Aminosulfonyl)phenyl}-2-ethyl-4-iodo-2-methyl-3(2H)-furanone was coupled with 2-furanboronic acid according to a procedure similar to the procedure in Example 44. mp: 154-155° C. NMR: δ0.92 (t, J=7.5 Hz, 3H), 1.52 (s, 3H), 1.95 (m, 2H), 5.03 (br s, 2H), 6.51 (dd, J=3.0, 1.8 Hz, 1H), 6.87 (d, J=3.0 Hz, 2H), 7.37 (d, J=1.5Hz, 1H), 7.94 (d, J=8.7 Hz, 2H), 8.02 (d, J=8.7 Hz, 2H). IR (cm−1): 3347, 3257, 1692, 1545, 1341, 1164.

reactant | 5-{4-(Aminosulfonyl)phenyl}-2-ethyl-4-iodo-2-methyl-3(2H)-furanone | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(C(O1)(C)CC)=O)I | C13H14INO4S
reactant | 2-furanboronic acid | O1C(=CC=C1)B(O)O | C4H5BO3
product | 5-{4-(Aminosulfonyl)phenyl}-2-ethyl-4-(2-furanyl)-2-methyl-3(2H)-furanone | NS(=O)(=O)C1=CC=C(C=C1)C1=C(C(C(O1)(C)CC)=O)C=1OC=CC1 | C17H17NO5S
